US04820729
D. L-Alanyl-N-(5-Indanyl)-Glycine
A solution of N-carbobenzoxy-L-alanyl-N-(5-indanyl)glycine (4.5 g) and 10% palladium on carbon (1.0 g) in 250 ml ethanol was hydrogenated at 25 psi for 2 h and filtered. Concentration of the volatiles in vacuo provided a residue which was dissolved in H2O and filtered over Celite. Lyophilization of the filtrate provided the crystalline (m.p. 119°-120° C.) product.

reactant | N-carbobenzoxy-L-alanyl-N-(5-indanyl)glycine | 4.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C=1C=C2CCCC2=CC1 | C22H24N2O5
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
product | L-Alanyl-N-(5-Indanyl)-Glycine | N[C@@H](C)C(=O)N(CC(=O)O)C=1C=C2CCCC2=CC1 | C14H18N2O3
